US08071776B2
(3-Amino-5-chloro-2-cyclopropylcarbamoyl-4-methyl-thieno[2,3-b]pyridin-6-yloxy)-acetic acid 2-hydroxyethylamide
To a solution of (3-amino-5-chloro-2-cyclopropylcarbamoyl-4-methyl-thieno[2,3-b]pyridin-6-yloxy)-acetic acid (0.200 g, 0.562 mmol) in a 1:1 mixture of THF:DMF (1.5 ml each) are added 1-hydroxybenzotriazole hydrate (0.099 g, 0.73 mmol), N,N-diisopropylethylamine (0.109 g, 0.843 mmol), 1-[3-(dimethylamino)-propyl]-3-ethylcarbodiimide hydrochloride (0.162 g, 0.843 mmol), and ethanolamine (0.103 g, 1.69 mmol). The resulting solution is stirred at room temperature for 24 hours, then at 50° C. for 24 hours. The reaction is cooled to room temperature and quenched by the addition of water. The mixture is partitioned between water and EtOAc (40 ml each), and the layers are shaken and separated. The aqueous layer is acidified to pH 3 with 1 N HCl and then extracted with EtOAc (40 ml). The combined organic layers are dried (anhydrous magnesium sulfate), filtered, concentrated, and flashed (100% EtOAc) to give the title compound as a cream solid (0.075 g, 34%). Mass (m/z): 399.2 (M++1), 397.2 (M+−1).

reactant | (3-amino-5-chloro-2-cyclopropylcarbamoyl-4-methyl-thieno[2,3-b]pyridin-6-yloxy)-acetic acid | 0.562 mmol, 0.200 g | NC1=C(SC2=NC(=C(C(=C21)C)Cl)OCC(=O)O)C(NC2CC2)=O | C14H14ClN3O4S
reactant | 1-hydroxybenzotriazole hydrate | 0.73 mmol, 0.099 g | O.ON1N=NC2=C1C=CC=C2
reactant | N,N-diisopropylethylamine | 0.843 mmol, 0.109 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-[3-(dimethylamino)-propyl]-3-ethylcarbodiimide hydrochloride | 0.843 mmol, 0.162 g | Cl.CN(CCCN=C=NCC)C
reactant | ethanolamine | 1.69 mmol, 0.103 g | C(O)CN | C2H7NO
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
solvent | THF | C1CCOC1 | C4H8O
product | (3-Amino-5-chloro-2-cyclopropylcarbamoyl-4-methyl-thieno[2,3-b]pyridin-6-yloxy)-acetic acid 2-hydroxyethylamide | 0.075 g, 34% | OCCNC(COC1=C(C(=C2C(=N1)SC(=C2N)C(NC2CC2)=O)C)Cl)=O | C16H19ClN4O4S
